US08076329B2
Following the procedure described in example 1§E, but starting from 4-bromo-4′-hydroxybiphenyl (5 g), potassium carbonate (13.8 g) and 1-bromo-3-chloropropane (15.7 g) in acetonitrile (100 mL) affords 6.4 g of 4′-bromo-4-(3-chloropropoxy)biphenyl as white crystals.

reactant | 4-bromo-4′-hydroxybiphenyl | 5 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9BrO
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 15.7 g | BrCCCCl | C3H6BrCl
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 4′-bromo-4-(3-chloropropoxy)biphenyl | 6.4 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCl | C15H14BrClO
